US07691882B2
1-Butoxy-3-((E)-2-nitro-vinyl)-benzene
A mixture of 3-butoxy-benzaldehyde (4.23 g, 23.7 mmol) described in Manufacturing Example 65-1-1, nitromethane (2.55 mL, 47.7 mmol), ammonium acetate (2.74 g, 35.6 mmol) and acetic acid (40 mL) was stirred for 5 hours at 100° C. This mixture was cooled to room temperature, concentrated under a reduced pressure, and diluted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=4:1-1:1) to obtain the title compound (3.92 g, 75%).

reactant | 3-butoxy-benzaldehyde | 23.7 mmol, 4.23 g | C(CCC)OC=1C=C(C=O)C=CC1 | C11H14O2
reactant | nitromethane | 47.7 mmol, 2.55 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 35.6 mmol, 2.74 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 1-Butoxy-3-((E)-2-nitro-vinyl)-benzene | 3.92 g, 75% | C(CCC)OC1=CC(=CC=C1)\C=C\[N+](=O)[O-] | C12H15NO3
